US06822097B1
7-(2,6-Dimethyl-morpholin-4-ylmethyl)-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one
This compound was prepared according to the method described in example 8768 employing 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde and 2,6-dimethylmorpholine to give a yellow solid. MS m/z: 433.1 (M+1).

reactant | 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde | N1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC(=CC=C2C1)C=O)=O | C18H11N3O2S
reactant | 2,6-dimethylmorpholine | CC1CNCC(O1)C | C6H13NO
product | 7-(2,6-Dimethyl-morpholin-4-ylmethyl)-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one | CC1CN(CC(O1)C)CC1=CC=C2C=C(C(NC2=C1)=O)C=1N=C(SC1)C1=CC=NC=C1 | C24H24N4O2S
